US04847386
Preparation of 3-Amino-4,5-bismethoxycarbonylthiophene hydrochloride
3-Oxo-4,5-bismethoxycarbonyltetrahydrothiophene (2.65 g) was dissolved in propionitrile (5 ml) and hydroxylamine hydrochloride (1 g) was added. The mixture was heated under reflux on the steam bath for 11/2 hours by which time it was almost solid. Ether was added to the cooled mixture and the title compound was filtered off. Yield 2.37 g (77.5%) M.P.166°-169° dec. 3-Amino-4,5-bismethoxycarbonylthiophene was liberated from the title compound by treatment with aqueous ammonia followed by bulk distillation (220° C., 0.1 mm Hg) and exhibited 'H n.m.r. δ (CDCl3) 6.40 (1H,s), 4.40 (2H, brs), 3.90, 3.94 (2×3H,s).

reactant | 3-Oxo-4,5-bismethoxycarbonyltetrahydrothiophene | 2.65 g | O=C1CSC(C1C(=O)OC)C(=O)OC | C8H10O5S
reactant | hydroxylamine hydrochloride | 1 g | Cl.NO
reactant | Ether | CCOCC | C4H10O
solvent | propionitrile | 5 ml | C(CC)#N | C3H5N
product | 3-Amino-4,5-bismethoxycarbonylthiophene hydrochloride | Cl.NC1=CSC(=C1C(=O)OC)C(=O)OC | InChI=1S/C8H9NO4S.ClH/c1-12-7(10)5-4(9)3-14-6(5)8(11)13-2;/h3H,9H2,1-2H3;1H
